US06416733B1
5-(4-fluorophenyl)-4-benzyloxy-2-mesyloxyethylbenzene (2.5 g, 6.24 mmol) was dissolved in methanol (80 mL). To this was added sodium hydroxide (300 mg, 7.5 mmol) dissolved in water (20 mL). The solution was heated to reflux and heating maintained for 24 hours, when an additional equivalent of sodium hydroxide was added, and reflux maintained for an additional 16 hours. The mixture was cooled, acidified with 1N HCl, and extracted with ethyl acetate. The organic layers were dried over magnesium sulfate, filtered, and concentrated under reduced pressure to afford an orange solid which was triturated with hexane to yield 5-(4-fluorophenyl)-4-benzyloxy-2-hydroxyethylbenzene (1.4 g) as an off-white powder. NMR (DMSO-d6): 1.11, t, (3H); 2.50, q (2H); 3.34, s (3H); 5.02, s (2H); 6.60, d (1H); 6.98, s (1H); 7.16, t (2H); 7.35, m (5H); 7.50, dd (2H); 9.44, s (1H). Mass Spec 5 (GCMS) 322 (M).

reactant | 5-(4-fluorophenyl)-4-benzyloxy-2-mesyloxyethylbenzene | 6.24 mmol, 2.5 g | FC1=CC=C(C=C1)C=1C(=CC=C(C1)CCOS(=O)(=O)C)OCC1=CC=CC=C1 | C22H21FO4S
reactant | sodium hydroxide | 7.5 mmol, 300 mg | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 80 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
product | 5-(4-fluorophenyl)-4-benzyloxy-2-hydroxyethylbenzene | 1.4 g | FC1=CC=C(C=C1)C=1C(=CC=C(C1)CCO)OCC1=CC=CC=C1 | C21H19FO2
